US04303660
1-Nitro-5,5-dimethyl-5,6-dihydropyrazolo[1,5-c]quinazoline is treated with acetic anhydride to give 1-nitro-5,5-dimethyl-6-acetyl-5,6-dihydropyrazolo[1,5-c]quinazoline with a yield of 69%. M.p.: 182°-183° C.

reactant | 1-Nitro-5,5-dimethyl-5,6-dihydropyrazolo[1,5-c]quinazoline | [N+](=O)([O-])C=1C=NN2C(NC=3C=CC=CC3C21)(C)C | C12H12N4O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-nitro-5,5-dimethyl-6-acetyl-5,6-dihydropyrazolo[1,5-c]quinazoline | yield of 69% | [N+](=O)([O-])C=1C=NN2C(N(C=3C=CC=CC3C21)C(C)=O)(C)C | C14H14N4O3
